US08664234B2
1,5-anhydro-2,3-dideoxy-3-[6-{[2-(difluoromethyl)pyridin-4-yl]methyl}-1-methyl-4-oxo-1,4-dihydrobenzo[h]quinazolin-3(2H)-yl]-L-threo-pentitol
A solution of 1,5-anhydro-2,3-dideoxy-3-[1-methyl-4-oxo-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,4-dihydrobenzo[h]quinazolin-3(2H)-yl]-L-threo-pentitol (47 mg, 0.11 mmol), 4-(chloromethyl)-2-(difluoromethyl)pyridine hydrochloride (23 mg, 0.11 mmol), cesium carbonate (98 mg, 0.30 mmol), and PdCl2(dppf)-CH2Cl2 adduct (12 mg, 0.017 mmol) in THF (0.85 mL) and water (0.10 mL) was purged subsurface with nitrogen, then capped and heated at 100° C. overnight. The reaction was diluted with water and saturated, aqueous NaHCO3, then extracted 2× with EtOAc. The organics were washed with brine, dried over MgSO4, filtered, concentrated, and dried. The residue was purified via silica gel chromatography, eluting with 20-100% ethyl acetate in hexanes to provide the title compound that gave a proton NMR spectra consistent with theory and a mass ion (ES+) of 454.0 for [M+H]+: 1H NMR (400 MHz, CDCl3) δ 8.45 (d, J=4.8 Hz, 1H), 8.28-8.31 (m, 1H), 7.92 (s, 1H), 7.76 (dd, J=7.6, 1.6 Hz, 1H), 7.52-7.61 (m, 2H), 7.47 (s, 1H), 7.12 (d, J=4.8 Hz, 1H), 6.58 (t, J=55.2 Hz, 1H), 4.70 (dd, J=32.8, 12.4 Hz, 2H), 4.62-4.69 (m, 1H), 4.40 (s, 2H), 4.17 (dd, J=10.8, 5.2 Hz, 1H), 4.06 (dd, J=7.6, 4.4 Hz, 1H), 3.73-3.82 (m, 1H), 3.51-3.58 (m, 1H), 3.25-3.30 (m, 1H), 3.02 (s, 3H), 2.62 (d, J=7.2 Hz, 1H), 1.86-2.04 (m, 2H).

reactant | 1,5-anhydro-2,3-dideoxy-3-[1-methyl-4-oxo-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,4-dihydrobenzo[h]quinazolin-3(2H)-yl]-L-threo-pentitol | 0.11 mmol, 47 mg | CN1CN(C(C2=CC(=C3C(=C12)C=CC=C3)B3OC(C(O3)(C)C)(C)C)=O)[C@H]3CCOC[C@@H]3O | C24H31BN2O5
reactant | 4-(chloromethyl)-2-(difluoromethyl)pyridine hydrochloride | 0.11 mmol, 23 mg | Cl.ClCC1=CC(=NC=C1)C(F)F
reactant | cesium carbonate | 0.30 mmol, 98 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | THF | 0.85 mL | C1CCOC1 | C4H8O
solvent | water | 0.10 mL | O | H2O
catalyst | PdCl2(dppf) CH2Cl2 | 0.017 mmol, 12 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 1,5-anhydro-2,3-dideoxy-3-[6-{[2-(difluoromethyl)pyridin-4-yl]methyl}-1-methyl-4-oxo-1,4-dihydrobenzo[h]quinazolin-3(2H)-yl]-L-threo-pentitol | FC(C1=NC=CC(=C1)CC=1C=C2C(N(CN(C2=C2C1C=CC=C2)C)[C@H]2CCOC[C@@H]2O)=O)F | C25H25F2N3O3
